US07531545B2
A solution of 2-chloro-4-methyl-5-nitropyridine (10 g, 0.058 mol), in DMF (100 mL) was treated with phenol (6.6 g, 0.07 mol) and potassium carbonate (9.6 g, 0.07 mol) and the reaction mixture was stirred at 110° C. for 4 hr and then cooled. To the reaction mixture was then added water. The reaction mixture was extracted into EtOAc, dried and concentrated to a syrup, which was purified via column chromatography (4:2:0.5; CHCl3:hexanes:EtOAc, v/v) to yield 4-methyl-5-nitro-2-phenoxy-pyridine as a light yellow solid.

reactant | 2-chloro-4-methyl-5-nitropyridine | 0.058 mol, 10 g | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | phenol | 0.07 mol, 6.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.07 mol, 9.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-methyl-5-nitro-2-phenoxy-pyridine | CC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1 | C12H10N2O3
